US07897762B2
2-Chloro-4-fluoro-5-nitro-phenylamine (1.4 g, 7.4 mmol) was added to a solution of 5-(chloromethyl)-N2-methoxy-N2,N4-dimethylpyridine-2,4-diamine from example A16 (1.6 g, 7.4 mmol) in pyridine (30 mL) and the mixture was stirred at 50° C. for 8 hours. The reaction mixture was concentrated under reduced pressure and the solid residue was thoroughly washed with water to give 5-((2-chloro-4-fluoro-5-nitrophenylamino)methyl)-N2-methoxy-N2,N4-dimethylpyridine-2,4-diamine (1.5 g, 56% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.01 (s, 1H), 7.76 (d, J=8.4 Hz, 1 H), 7.71 (s, 1 H), 7.34 (d, J=8 Hz, 1 H), 6.56 (m, 1 H), 5.98 (s, 1 H), 4.36 (d, J=4 Hz, 2 H), 3.71 (s, 3 H), 3.31 (s, 3 H), 2.91-2.92 (d, J=4 Hz, 3 H); MS (ESI) m/z: 369.9 [M+H]+.

reactant | 2-Chloro-4-fluoro-5-nitro-phenylamine | 7.4 mmol, 1.4 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N | C6H4ClFN2O2
reactant | 5-(chloromethyl)-N2-methoxy-N2,N4-dimethylpyridine-2,4-diamine | ClCC=1C(=CC(=NC1)N(C)OC)NC | C9H14ClN3O
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 5-((2-chloro-4-fluoro-5-nitrophenylamino)methyl)-N2-methoxy-N2,N4-dimethylpyridine-2,4-diamine | 1.5 g, 56% yield | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])NCC=1C(=CC(=NC1)N(C)OC)NC | C15H17ClFN5O3
